US08466283B2
Step 1: Preparation of 4-formyl-2-methoxy-3-nitrophenyl acetate
Fuming nitric acid (2200 mL) under nitrogen was cooled to 0° C. at which time vanillin acetate (528 g, 2.7 mol) was added portionwise, keeping the internal temperature below 10° C. After 2 h the resulting mixture was poured over ice with stirring. The slurry was filtered and the resulting solids were washed with water (3×100 mL) and air-dried. After 2 days the solids were heated in DCM (3000 mL) until complete dissolution. The solution was allowed to cool to room temperature while hexanes (3000 mL) was added dropwise. The solids were filtered, washed with hexanes (500 mL) and air dried to give the desired product (269 g, 41%): 1H NMR, (DMSO-d6) δ: 9.90 (s, 1H), 7.94 (d, 1H), 7.75 (d, 1H), 3.87 (s, 3H), 2.40 (s, 3H).

reactant | vanillin acetate | 2.7 mol, 528 g | C(C)(=O)O.O=CC1=CC(OC)=C(O)C=C1
reactant | nitric acid | 2200 mL | [N+](=O)(O)[O-] | HNO3
product | 4-formyl-2-methoxy-3-nitrophenyl acetate | 269 g, 41% | C(C)(=O)OC1=C(C(=C(C=C1)C=O)[N+](=O)[O-])OC | C10H9NO6
